US07279497B2
Preparation of (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-fluorophenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran
The title compound (650 mg, 48%) was prepared using (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran (800 mg, 2.84 mmol) and 4-fluorophenyl-1H-imidazol-2-ylmethylamine (380 mg, 2.0 mmol), according to the same procedure used for the preparation of example 1 above.

reactant | (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran | 2.84 mmol, 800 mg | COC([C@]1(OC2=C([C@H]3[C@@H]1O3)C=C(C=C2)[N+](=O)[O-])C)OC | C13H15NO6
reactant | 4-fluorophenyl-1H-imidazol-2-ylmethylamine | 2.0 mmol, 380 mg | FC1=CC=C(C=C1)NCC=1NC=CN1 | C10H10FN3
product | (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-fluorophenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran | 650 mg, 48% | COC([C@]1(OC2=C([C@H]([C@@H]1O)N(CC=1NC=CN1)C1=CC=C(C=C1)F)C=C(C=C2)[N+](=O)[O-])C)OC | C23H25FN4O6
